US05646173
0.7 ml of acetic anhydride was added while stirring to a solution of 1.05 g of (RS)-1-(2-azido-propyl)-7-hydroxy-1,4-dihydro-indeno[1,2-b]pyrrol and 0.6 ml of pyridine in 30 ml of dichloromethane and the mixture was stirred for an additional 16 hours. Subsequently, the reaction mixture was treated with 50 ml of dichloromethane and 40 ml of water. The organic phase was separated and this was washed once with 50 ml of saturated sodium chloride solution. After drying over magnesium sulfate, the solution was concentrated in a vacuum and the crude product was purified by column chromatography on silica gel (ethyl acetate/hexane 1:2). 0.9 g (85%) of (RS)-1-(2-azido-propyl)-7-acetoxy-1,4-dihydro-indeno[1,2-b]pyrrole was obtained as a light orange oil.

reactant | acetic anhydride | 0.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (RS)-1-(2-azido-propyl)-7-hydroxy-1,4-dihydro-indeno[1,2-b]pyrrol | 1.05 g | N(=[N+]=[N-])C(CN1C2=C(C=C1)CC1=CC=C(C=C12)O)C | C14H14N4O
reactant | pyridine | 0.6 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 40 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (RS)-1-(2-azido-propyl)-7-acetoxy-1,4-dihydro-indeno[1,2-b]pyrrole | 0.9 g, 85% | N(=[N+]=[N-])C(CN1C2=C(C=C1)CC1=CC=C(C=C12)OC(C)=O)C | C16H16N4O2
